US05977134
Step 5: Preparation of 4-{5-[4-(3-bromophenyl)-4,5,6,7-tetrahydroimidazo[4,5-c]pyridin-1-ylmethyl]imidazol-1-ylmethyl}-benzonitrile
To a solution of 4-(3-bromophenyl)-1-[3-(4-cyanobenzyl)-3H-imidazol-4-ylmethyl]-1,4,6,7-tetrahydroimidazo[4,5-c]pyridine-5-carboxylic acid tert-butyl ester (0.045 g, 0.078 mmol) dissolved in CH2Cl2 (5 mL) was added TFA (1 mL) and the reaction mixture was stirred at room temperature under Ar for 2h. The solution was concentrated in vacuo and purified using reverse phase liquid chromatography (95/5 -5/95 H2O/CH3CN with 0.1% TFA over 60 min, flow rate =65 mL/min) to yield the title compound.

reactant | 4-(3-bromophenyl)-1-[3-(4-cyanobenzyl)-3H-imidazol-4-ylmethyl]-1,4,6,7-tetrahydroimidazo[4,5-c]pyridine-5-carboxylic acid tert-butyl ester | 0.078 mmol, 0.045 g | C(C)(C)(C)OC(=O)N1C(C2=C(CC1)N(C=N2)CC=2N(C=NC2)CC2=CC=C(C=C2)C#N)C2=CC(=CC=C2)Br | C29H29BrN6O2
reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 4-{5-[4-(3-bromophenyl)-4,5,6,7-tetrahydroimidazo[4,5-c]pyridin-1-ylmethyl]imidazol-1-ylmethyl}-benzonitrile | BrC=1C=C(C=CC1)C1NCCC2=C1N=CN2CC2=CN=CN2CC2=CC=C(C#N)C=C2 | C24H21BrN6
